US06787635B2
3-Formylindol-1-ylacetic acid was prepared and coupled to the beads above according to the process of EP 0 801 083 A2 (Estep et al.) using diisopropyl carbodiimide, N,N-diisopropylethylamine, and N-hydroxybenzotriazole in DMF/CH2Cl2. Benzylamine was reductively coupled to this bead-linker using sodium cyanoborohydride in 0.5M acetate buffer, pH 5, by the procedure in the same document. The product was then acetylated using acetic anhydride/triethylamine. The acetylated amine was released from the resin by treatment with 50% TFA/CH2Cl2 for 4 hours. The filtrate was evaporated to dryness and the residue evaluated by NMR and mass spectroscopy to show that the major product was N-benzylacetamide. This example demonstrates the feasibility of conducting solid phase synthesis using azlactone-functionalized beads.

reactant | diisopropyl carbodiimide | C(C)(C)N=C=NC(C)C | C7H14N2
reactant | N,N-diisopropylethylamine | C(C)(C)N(C(C)C)CC | C8H19N
reactant | N-hydroxybenzotriazole | ON1N=NC2=C1C=CC=C2 | C6H5N3O
reactant | Benzylamine | C(C1=CC=CC=C1)N | C7H9N
reactant | sodium cyanoborohydride | C(#N)[BH3-].[Na+]
reactant | acetic anhydride triethylamine | C(C)(=O)OC(C)=O.C(C)N(CC)CC
reactant | TFA CH2Cl2 | C(=O)(C(F)(F)F)O.C(Cl)Cl
solvent | DMF CH2Cl2 | CN(C)C=O.C(Cl)Cl
solvent | acetate | 0.5M | C(C)(=O)[O-]
product | 3-Formylindol-1-ylacetic acid | C(=O)C1=CN(C2=CC=CC=C12)CC(=O)O | C11H9NO3
